US06093714
To a solution of diisopropylamine (0.6 ml, 4.26 mmol) in tetrahydrofuran (12 ml) was added, at -78° C. under an argon atmosphere, 1.5 N butyllithium (2.66 ml, 3.99 mmol). The mixture was stirred for 30 min. Ethyl propiolate (0.49 ml, 4.79 mmol) and a solution of 2-nitro-4-phenylbutoxybenzoylaminobenzaldehyde (1.1 g, 2.66 mmol) in tetrahydrofuran (3 ml) were added in that order, and the mixture was stirred at -78° C. for additional one hr. A solution of acetic acid (0.47 ml, 8.25 mmol) in tetrahydrofuran (3 ml) was then added thereto, followed by extraction with ethyl acetate. The organic layer was washed with dilute hydrochloric acid, water, a saturated aqueous sodium bicarbonate solution, and saturated brine in that order. It was then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give ethyl 4-hydroxy-4-(2-nitro-4-phenylbutoxybenzoylaminophenyl)-2-butynoate as an oil (1.443 g). Ethyl 4-hydroxy-4-(2-nitro-4-phenylbutoxybenzoylaminophenyl)-2-butynoate thus prepared was dissolved in toluene (10 ml), 4-methoxybenzylazide (1.3 g, 7.98 mmol) was added to the solution, and the mixture was stirred at 100° C. for 5 hr. The reaction mixture was cooled to room temperature, and the resultant crystal was collected by filtration to give ethyl 4-hydroxy-1-(4-methoxybenzyl)-(2-nitro-4-phenylbutoxybenzoylaminophenyl)methyl-1,2,3-triazole-5-carboxylate (a-1) (550.4 mg, 26%). Further, the filtrate was concentrated, and the resultant powder was washed with hexane:ethyl acetate (1:1) and dried to give ethyl 5-hydroxy-1-(4-methoxybenzyl)-(2-nitro-4-phenylbutoxybenzoylaminophenyl)methyl-1,2,3-triazole-4-carboxylate (a-2) (466.3 mg, 30%).

reactant | diisopropylamine | 4.26 mmol, 0.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 3.99 mmol, 1.5 N, 2.66 ml | C(CCC)[Li]
reactant | Ethyl propiolate | 4.79 mmol, 0.49 ml | C(C#C)(=O)OCC | C5H6O2
reactant | 2-nitro-4-phenylbutoxybenzoylaminobenzaldehyde | 2.66 mmol, 1.1 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1NC(C1=CC=CC=C1)=O)OCCCCC1=CC=CC=C1 | C24H22N2O5
reactant | acetic acid | 8.25 mmol, 0.47 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | ethyl 4-hydroxy-4-(2-nitro-4-phenylbutoxybenzoylaminophenyl)-2-butynoate | 1.443 g | OC(C#CC(=O)OCC)C1=C(C(=C(C=C1)OCCCCC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)[N+](=O)[O-] | C29H28N2O7
